US07119207B2
6-Methoxy-1,3,3-trimethyl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one
A mixture of 0.3 g (1.4 mmol) 6-chloro-1,3,3-trimethyl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one, 0.6 ml (2.8 mmol) of sodium methoxide (4.6M in methanol), and 1.2 mg of Cul in 6 ml of DMF was heated to 145° C. for 18 hours. The reaction mixture was cooled to room temperature and added to 25 ml of water. The mixture was extracted with ethyl acetate. The ethyl acetate extract were was washed with 25 ml of saturated sodium bisulfite, dried (Na2SO4) and evaporated. The residue was triturated twice with hot hexane, and the hexane decanted. The residue 6-methoxy-1,3,3-trimethyl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (0.25 g) was used without further purification. TLC: Rf=0.7 (5:1 hexane/ethyl acetate). 1H NMR (CDCl3) δ 7.35 (d, 1H), 6.38 (d, 1H), 3.92 (s, 3H), 3.22 (s, 3H), 1.33 (s, 3H). Mass spectrum: m/e=207.3 (p+1).

reactant | 6-chloro-1,3,3-trimethyl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 1.4 mmol, 0.3 g | ClC1=CC=C2C(=N1)N(C(C2(C)C)=O)C | C10H11ClN2O
reactant | sodium methoxide | 2.8 mmol, 4.6M, 0.6 ml | C[O-].[Na+]
reactant | water | 25 ml | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 6-Methoxy-1,3,3-trimethyl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | COC1=CC=C2C(=N1)N(C(C2(C)C)=O)C | C11H14N2O2
